US04005099
In the manner given in Example 4, N-[[1-[4-trifluoromethyl-2-(2-pyridylcarbonyl)phenyl]-2-[(dimethylamino)-methyl]-4-methylimidazol-5-yl]methyl]phthalimide in ethanol is heated with hydrazine hydrate to give 8-trifluoromethyl-6-(2-pyridyl)-1-[(dimethylamino)methyl]-3-methyl-4H-imidazo[1,5-a][1,4]benzodiazepine.

reactant | N-[[1-[4-trifluoromethyl-2-(2-pyridylcarbonyl)phenyl]-2-[(dimethylamino)-methyl]-4-methylimidazol-5-yl]methyl]phthalimide | FC(C1=CC(=C(C=C1)N1C(=NC(=C1CN1C(C=2C(C1=O)=CC=CC2)=O)C)CN(C)C)C(=O)C2=NC=CC=C2)(F)F | C29H24F3N5O3
reactant | hydrazine hydrate | O.NN
reactant | ethanol | C(C)O | C2H6O
product | 8-trifluoromethyl-6-(2-pyridyl)-1-[(dimethylamino)methyl]-3-methyl-4H-imidazo[1,5-a][1,4]benzodiazepine | FC(C=1C=CC2=C(C(=NCC=3N2C(=NC3C)CN(C)C)C3=NC=CC=C3)C1)(F)F | C21H20F3N5
